US07655670B2
4-[(2-Bromo-5-methoxy-phenyl)-ethyl-carbamoyl]-piperidine-1-carboxylic acid tert-butyl ester
4-(2-Bromo-5-methoxy-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (0.5 g, 1.21 mmol) was dissolved in dry N,N-dimethylformamide (5.0 mL). To the reaction mixture was then added at 0° C. sodium hydride (60% in mineral oil, 60.0 mg, 1.45 mmol) under nitrogen atmosphere and the reaction mixture was stirred at 0° C. for one hour. To the reaction mixture was then added at 0° C., ethyl iodide (0.226 g, 1.45 mmol). The reaction mixture was stirred at 0° C. for one hour, then at room temperature under nitrogen atmosphere for 18 hours. The reaction mixture was then added into an excess of water-ice and a solid precipitated. The solid was filtered by suction, washed with water and dried to yield a crude solid. The crude solid was purified via flash chromatography (25% ethyl acetate/hexanes) to yield the title compound as a solid.

reactant | 4-(2-Bromo-5-methoxy-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.21 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=C(C=CC(=C1)OC)Br)=O | C18H25BrN2O4
reactant | sodium hydride | 1.45 mmol, 60.0 mg | [H-].[Na+]
reactant | ethyl iodide | 1.45 mmol, 0.226 g | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | 4-[(2-Bromo-5-methoxy-phenyl)-ethyl-carbamoyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N(CC)C1=C(C=CC(=C1)OC)Br)=O | C20H29BrN2O4
